US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2-(1,1-dioxido-8-phenoxy-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
A mixture of N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-8-phenoxy-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine (90 mg, 0.13 mmol), palladium hydroxide on carbon (40 mg) and trifluoroacetic acid (0.1 mL) in methanol (30.0 mL) was stirred at room temperature under hydrogen (2 bar) for 14 hours. Then the reaction mixture was filtered and concentrated in vacuo. The residue was purified by preparative HPLC to afford 10.5 mg of the desired product as a white solid (yield was 15.2%). MS obsd. (ESI+) [(M+H)+] 531, 1H NMR (400 MHz, CD3OD) δ ppm 7.86 (d, J=8.34 Hz, 1 H), 7.69 (s, 1 H), 7.52 (d, J=2.53 Hz, 1 H), 7.45 (d, J=8.59 Hz, 1 H), 7.42-7.35 (m, 2 H), 7.31 (dd, J=8.46, 1.64 Hz, 1 H), 7.25-7.13 (m, 2 H), 7.06-6.97 (m, 2 H), 6.21 (s, 1 H), 5.14 (brs, 2 H), 4.70-4.46 (m, 6 H), 3.68 (s, 2 H), 3.60 (brs, 2 H), 2.44 (s, 3 H).

reactant | N-{[3-(dibenzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-8-phenoxy-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 0.13 mmol, 90 mg | C(C1=CC=CC=C1)N(C1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC(=C2)OC2=CC=CC=C2)(=O)=O)CC2=CC=CC=C2 | C43H42N4O4S
reactant | trifluoroacetic acid | 0.1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 30.0 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 40 mg | [OH-].[OH-].[Pd+2]
product | N-[(3-Aminooxetan-3-yl)methyl]-2-(1,1-dioxido-8-phenoxy-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 10.5 mg, yield was 15.2% | NC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC(=C2)OC2=CC=CC=C2)(=O)=O | C29H30N4O4S
